US09290468B2
4-Amino-3-fluoro-2-((2-fluorophenyl)amino)-5-hydroxybenzoic acid can be cyclized in the presence of acid (such as p-toluenesulfonic acid, pyridinium toluene-4-sulphonate, formic acid, acetic acid, sulfuric acid) in appropriate solvent (include aliphatic and aromatic hydrocarbon (such as pentane, hexane, heptane, cyclohexane, petroleum ether, petrol, gasoline, benzene, toluene, xylene), aliphatic and aromatic halo-hydrocarbon (such as dichloromethane, 1,2-dichloroethane, chloroform, phenixin, chlorobenzene, o-dichlorobenzene), ether (such as diethyl ether, dibutyl ether, glycol dimethyl ether, 2-methoxyethyl ether, tetrahydrofuran, dioxane), ketone (such as acetone, methyl ethyl ketone, methyl isopropyl ketone, methyl isobutyl ketone), ester (such as ethyl acetate, methyl acetate), nitrile (such as acetonitrile, propiononitrile), amide (such as N,N-dimethylformamide, N,N-dimethylacetamide and N-methylpyrrolidin-2-one), DMSO, sulfolane, HMPA, DMPU, prefer methyl acetate, ethyl acetate and trimethoxymethane) for some time (0.2-12 h, prefer 0.5-10 h). 4-Fluoro-5-((2-fluorophenyl)amino)benzo[d]oxazole-6-carboxylic acid is obtained after conventional workup.

reactant | 4-Amino-3-fluoro-2-((2-fluorophenyl)amino)-5-hydroxybenzoic acid | NC1=C(C(=C(C(=O)O)C=C1O)NC1=C(C=CC=C1)F)F | C13H10F2N2O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyridinium toluene-4-sulphonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | methyl acetate | C(C)(=O)OC | C3H6O2
reactant | trimethoxymethane | COC(OC)OC | C4H10O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | formic acid | C(=O)O | CH2O2
product | 4-Fluoro-5-((2-fluorophenyl)amino)benzo[d]oxazole-6-carboxylic acid | FC1=C(C(=CC2=C1N=CO2)C(=O)O)NC2=C(C=CC=C2)F | C14H8F2N2O3
